US08044068B2
A mixture of 2,4-dichlorothieno[3,2-d]pyrimidine (0.1 g), ethanol (5 mL), water (0.5 mL) and sodium hydroxide (0.04 g) was stirred at room temperature. The precipitated solids were collected by filtration and washed with diethyl ether to obtain 2-chloro-4-ethoxythieno[3,2-d]pyrimidine (0.07 g).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 0.1 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 0.04 g | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
product | 2-chloro-4-ethoxythieno[3,2-d]pyrimidine | 0.07 g | ClC=1N=C(C2=C(N1)C=CS2)OCC | C8H7ClN2OS
